US07674822B2
1-Carboxymethoxy-7-(1-cyclohexylmethyl-3-ethyl-ureido)-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid
Step C Hydrolysis: Hydrolysis of 7-(1-Cyclohexylmethyl-3-ethyl-ureido)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester (30 mg, 0.056 mmol) was carried out following a procedure similar to that delineated in Step C, Example 26, with the exception of an ethyl acetate wash (3×, 5 mL) before precipitation of the desired diacid, to remove a minor impurity associated with the isocyanate. (8.6 mg yellow solid, 28% yield).

reactant | 7-(1-Cyclohexylmethyl-3-ethyl-ureido)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 0.056 mmol, 30 mg | COC(=O)C1=C(C2=C(C=3C=CC=C(C3S2)N(C(=O)NCC)CC2CCCCC2)S1)OCC(=O)OCC | C26H32N2O6S2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Carboxymethoxy-7-(1-cyclohexylmethyl-3-ethyl-ureido)-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid | C(=O)(O)COC1=C(SC2=C1SC=1C(=CC=CC21)N(C(=O)NCC)CC2CCCCC2)C(=O)O | C23H26N2O6S2
